US07338967B2
A mixture of 52 mg (0.23 mmol) of 2,4-dichloro-N-hydroxybenzenecarboximidoyl chloride, 50 mg (0.21 mmol) of 3-(2-chlorophenyl)-1-(3-pyridyl)-2-propyn-1-ol, and 30 mg (0.36 mmol) of sodium bicarbonate in 3 mL of isopropyl alcohol was heated at 55° C. overnight with shaking. The reaction mixture was cooled, diluted with ether, and then washed with saturated sodium bicarbonate. The ether fraction was dried over magnesium sulfate. The drying agent was filtered off, and the ether was removed by rotoevaporation. The crude product was purified by prep TLC to give 15 mg (0.035 mmol) of 5-(2-chlorophenyl)-3-(2,4-dichlorophenyl)-4-[(3-pyridyl)hydroxymethyl]isoxazole. 1H NMR (CDCl3): δ 5.80 (br s, 1). MS m/z: 431.0 (M+H).

reactant | 2,4-dichloro-N-hydroxybenzenecarboximidoyl chloride | 0.23 mmol, 52 mg | ClC1=C(C=CC(=C1)Cl)C(=NO)Cl | C7H4Cl3NO
reactant | 3-(2-chlorophenyl)-1-(3-pyridyl)-2-propyn-1-ol | 0.21 mmol, 50 mg | ClC1=C(C=CC=C1)C#CC(O)C=1C=NC=CC1 | C14H10ClNO
reactant | sodium bicarbonate | 0.36 mmol, 30 mg | C([O-])(O)=O.[Na+]
solvent | isopropyl alcohol | 3 mL | C(C)(C)O | C3H8O
solvent | ether | CCOCC | C4H10O
product | 5-(2-chlorophenyl)-3-(2,4-dichlorophenyl)-4-[(3-pyridyl)hydroxymethyl]isoxazole | 0.035 mmol, 15 mg | ClC1=C(C=CC=C1)C1=C(C(=NO1)C1=C(C=C(C=C1)Cl)Cl)C(O)C=1C=NC=CC1 | C21H13Cl3N2O2
